US07713994B2
(4Z)-4-({[4-(2-Pyrrolidin-1-ylethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione
A mixture of 4-methoxymethylene-4H-isoquinoline-1,3-dione (101.5 mg, 0.5 mmol), 4-(2-pyrrolidin-1-yl-ethyl)-phenylamine (95.2 mg, 0.5 mmol) in 1 mL of N,N-dimethylformamide is heated at 110° C. for 1.5 h. After cooling in the refrigerator, the precipitate is collected, and washed with ether to give 129 mg (71%) of yellow solid mp 224-225° C.; MS (ESI) m/z 362.20 (M+1); Analysis for C22H23N3O2: Calcd: C, 73.11; H, 6.41; N, 11.63. Found: C, 72.33; H, 6.45; N, 11.59.

reactant | 4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.5 mmol, 101.5 mg | COC=C1C(NC(C2=CC=CC=C12)=O)=O | C11H9NO3
reactant | 4-(2-pyrrolidin-1-yl-ethyl)-phenylamine | 0.5 mmol, 95.2 mg | N1(CCCC1)CCC1=CC=C(C=C1)N | C12H18N2
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | (4Z)-4-({[4-(2-Pyrrolidin-1-ylethyl)phenyl]amino}methylene)isoquinoline-1,3(2H,4H)-dione | 129 mg, 71% | N1(CCCC1)CCC1=CC=C(C=C1)N\C=C\1/C(NC(C2=CC=CC=C12)=O)=O | C22H23N3O2
